US07005538B1
A mixture of 3-[3,5-dibromo-4-(3-nitrobenzyloxy)phenyl]propionic acid (0.66 g, 1.44 mmol) and Na2S2O4 (2.0 g, 11.5 mmol) in ethanol (50 mL, 90%) was stirred at 70° C. over night. The reaction mixture was concentrated and purified on column (silica gel, chloroform/methanol, 9:1), to give 0.18 g (29%) of 3-[3,5-dibromo-4-(3-amino-benzyloxy)phenyl]propionic acid. MS: m/z 429.1 (M+−1).

reactant | 3-[3,5-dibromo-4-(3-nitrobenzyloxy)phenyl]propionic acid | 1.44 mmol, 0.66 g | BrC=1C=C(C=C(C1OCC1=CC(=CC=C1)[N+](=O)[O-])Br)CCC(=O)O | C16H13Br2NO5
reactant | Na2S2O4 | 11.5 mmol, 2.0 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-[3,5-dibromo-4-(3-amino-benzyloxy)phenyl]propionic acid | 0.18 g, 29% | BrC=1C=C(C=C(C1OCC1=CC(=CC=C1)N)Br)CCC(=O)O | C16H15Br2NO3
